US06107324
N-[3-(4-bromo-1-methylpyrazol-3-yl)phenyl][4-trifluoromethoxyphenyl]carboxamide
To 4-(trifluoromethoxy)benzoyl chloride (19 μL, 0.12 mmol) in CH2Cl2 (1 mL) was added dropwise a solution of 3-(3-aminophenyl)-4-bromo-1-methylpyrazole (30 mg, 0.12 mmol) and triethylamine (17 μL, 0.12 mmol) in CH2Cl2 (0.5 mL). The reaction mixture was stirred for 16 h and concentrated. Chromatography on flash silica (50% EtOAc/hexane) gave the title compound as a colourless solid (40 mg, 76%), m.p. 138.6-139.6° C. (EtOAc/hexane).

reactant | 4-(trifluoromethoxy)benzoyl chloride | 0.12 mmol, 19 μL | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
reactant | 3-(3-aminophenyl)-4-bromo-1-methylpyrazole | 0.12 mmol, 30 mg | NC=1C=C(C=CC1)C1=NN(C=C1Br)C | C10H10BrN3
reactant | triethylamine | 0.12 mmol, 17 μL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(4-bromo-1-methylpyrazol-3-yl)phenyl][4-trifluoromethoxyphenyl]carboxamide | 40 mg, 76% | BrC=1C(=NN(C1)C)C=1C=C(C=CC1)NC(=O)C1=CC=C(C=C1)OC(F)(F)F | C18H13BrF3N3O2
